* ============================================================
* Simple Class-AB Amplifier
* Topology:
* Differential input + current mirror load + VAS
* + Vbe multiplier bias + complementary emitter follower output
* + global negative feedback
* ============================================================

.title Simple_Diff_VAS_VbeMul_ClassAB_Amp

* ----------------------------
* Power Supply
* ----------------------------
VCC  VCC   0   DC  +15
VEE  VEE   0   DC  -15

* ----------------------------
* Input Source
* ----------------------------
* Non-inverting input signal
VIN  IN    0   AC 1  SIN(0 0.1 1k)

* ----------------------------
* Feedback Network
* ----------------------------
* Closed-loop gain = 1 + RF/RG ≈ 1 + 22k/1k = 23
RF   OUT   NFB   22k
RG   NFB   0     1k

* Small input resistor / stopper
RIN  IN    NIP   1k

* ----------------------------
* Differential Input Stage
* Q1: non-inverting input transistor
* Q2: inverting input transistor
* Tail current source at node TAIL
* ----------------------------
Q1   C1    NIP   TAIL   QNPN
Q2   C2    NFB   TAIL   QNPN

* Tail current source ~2mA
ITAIL TAIL VEE   DC 2mA

* ----------------------------
* PNP Current Mirror Active Load
* Q3 diode-connected
* Q4 mirror transistor
* This converts diff pair current to single-ended output at C2
* ----------------------------
Q3   C1    C1    VCC    QPNP
Q4   C2    C1    VCC    QPNP

* Optional degeneration / balancing
* (can be tuned or removed)
RCM1 C1    0     100Meg
RCM2 C2    0     100Meg

* ----------------------------
* VAS (Voltage Amplification Stage)
* Q5 common-emitter VAS
* Collector at VAS_C, base driven from diff output node C2
* Emitter degeneration via RE5, current sink via IVAS
* ----------------------------
Q5   VAS_C C2    VAS_E  QNPN
RE5  VAS_E VEE   220

* VAS bias current ~6mA
IVAS VAS_E VEE   DC 6mA

* Miller compensation for stability
CCOMP VAS_C C2   100p

* VAS collector load to VCC
RC5  VCC   VAS_C 4.7k

* ----------------------------
* Vbe Multiplier Bias Network
* Q6 provides adjustable bias between driver bases
* Upper bias node: BDRV_P
* Lower bias node: BDRV_N
* Bias spread roughly Vbe*(1 + RB1/RB2)
* ----------------------------
Q6   BDRV_P VBMULT BDRV_N QNPN
RB1  BDRV_P VBMULT 2.2k
RB2  VBMULT BDRV_N 1k

* A little current through Vbe multiplier from VAS node
RBIAS VAS_C BDRV_P 2.2k
RBIAS2 BDRV_N VEE   2.2k

* ----------------------------
* Driver / Output Stage
* Complementary emitter follower output stage
* Q7/Q8 as drivers
* Q9/Q10 as power output devices
* ----------------------------

* Driver stage
Q7   VCC    BDRV_P  DRV_P   QNPN
Q8   VEE    BDRV_N  DRV_N   QPNP

* Driver emitter resistors / stoppers
RDP  DRV_P  B9      47
RDN  DRV_N  B10     47

* Output power stage
Q9   VCC    B9      OUT     QNPNPWR
Q10  VEE    B10     OUT     QPNPPWR

* Emitter ballast resistors improve thermal sharing / stability
RE9  OUT    0       0.22
RE10 0      OUT     0.22

* ----------------------------
* Output Load
* ----------------------------
RL   OUT    0       8

* ----------------------------
* Optional Zobel Network for stability with reactive load
* ----------------------------
RZ   OUT    NZ      10
CZ   NZ     0       100n

* ----------------------------
* Input bias reference
* ----------------------------
RBI  NIP    0       100k

* ----------------------------
* Device Models
* These are simple generic models for topology verification.
* Replace with better models later (e.g. 2N5401/2N5551, MJE15032/33, etc.)
* ----------------------------
.model QNPN NPN (
+ IS=1e-14 BF=200 VAF=100
+ CJE=10p CJC=5p TF=0.5n TR=10n
)

.model QPNP PNP (
+ IS=1e-14 BF=120 VAF=80
+ CJE=12p CJC=6p TF=0.8n TR=15n
)

.model QNPNPWR NPN (
+ IS=1e-12 BF=80 VAF=50
+ CJE=80p CJC=50p TF=5n TR=100n
)

.model QPNPPWR PNP (
+ IS=1e-12 BF=60 VAF=40
+ CJE=100p CJC=60p TF=8n TR=150n
)

* ----------------------------
* Analysis Commands
* ----------------------------
.op
.ac dec 100 10 1Meg
.tran 0 20m 0 1u

* For distortion checking (ngspice / LTspice may vary)
*.four 1k V(OUT)

.end