*========================================================
* CMOS Differential Input Stage
* file: diff_input_stage.cir
*========================================================

* Power supply
VDD     vdd     0       DC 1.8

* Differential inputs
* 共模电压先设在 0.9V，叠加一个很小的差分扰动
VINP    inp     0       DC 0.9  AC 0.5m
VINN    inn     0       DC 0.9  AC -0.5m

* Tail current source
ITAIL   tail    0       DC 20u

* NMOS differential pair
M1      outp    inp     tail    0       NMOS    W=20u   L=0.18u
M2      outn    inn     tail    0       NMOS    W=20u   L=0.18u

* PMOS active load (current mirror)
M3      outp    outp    vdd     vdd     PMOS    W=40u   L=0.18u
M4      outn    outp    vdd     vdd     PMOS    W=40u   L=0.18u

* Single-ended output taken from outn
* 若你要差分输出，就同时观察 outp 和 outn

* Simple MOS models
.model NMOS NMOS level=1 VTO=0.45 KP=200u LAMBDA=0.02 GAMMA=0.4 PHI=0.7
.model PMOS PMOS level=1 VTO=-0.45 KP=80u  LAMBDA=0.02 GAMMA=0.4 PHI=0.7

* Analyses
.op
.ac dec 100 1 1G
.tran 1n 1u

.end