*============================================================
* Class-A Power Amplifier - framework netlist
* extracted from photographed schematic (abstracted, not 1:1)
*============================================================

*************** SUPPLY ***************
VCC     VCC     0       DC 90
VEE     VEE     0       DC -90

CDEC_P  VCC     0       2200u
CDEC_N  VEE     0       2200u

*************** INPUT ***************
VIN     IN      0       AC 1  SIN(0 0.2 1k)

* input relay / RF filter / bias return
RIN     IN      NIN     2k
CINRF   NIN     0       100p
RINB    NIN     0       270k

*************** GLOBAL FEEDBACK ***************
RFB     OUT     FB      22k
RFBG    FB      0       1k

*************** INPUT FRONT END ***************
* Original Q1~Q8 looks like a high-grade front-end around dual FET + cascode.
* Here it is collapsed into a FET differential pair with active mirror load.

JINP    ND1     NIN     NTAIL   NJF_IN
JINN    ND2     FB      NTAIL   NJF_IN
ITAIL   NTAIL   VEE     DC 8m

* active load / mirror
QML1    ND1     ND1     VCC     PNP_SMALL
QML2    NERR    ND1     VCC     PNP_SMALL

* light DC reference for operating point
RERR    NERR    0       100k

*************** DC SERVO (IC1 / IC2 abstraction) ***************
* The original drawing contains op-amp based LF / offset correction.
* Here: a slow servo senses OUT and injects correction into FB node.

XSERVO  0       OUT     NSRV    VCC     VEE     OPAMP_SIMPLE
RSRV    NSRV    FB      330k
CSRV    NSRV    OUT     2.2u

*************** VAS / DOMINANT POLE ***************
QVAS    VAS     NERR    VEE     NPN_VAS
IVAS    VCC     VAS     DC 10m
CCOMP   VAS     NERR    100p
RSTOP   VAS     NBIAS   100

*************** BIAS SPREAD / THERMAL BLOCK ***************
* Original Q16/Q17 + diodes + thermal sensor are abstracted here.
* This is only the framework equivalent, not the exact bias servo.
BUPSRC  BUP     0       V = { V(VAS) + 1.25 }
BDNSRC  BDN     0       V = { V(VAS) - 1.25 }

*************** DRIVER STAGE ***************
QDRVU   VCC     BUP     DRVUP   NPN_DRV
QDRVD   VEE     BDN     DRVDN   PNP_DRV

*************** PARALLEL OUTPUT BANK ***************
* The original schematic has a much denser parallel bank (~9 devices / side).
* Here 4-parallel per side is written as the structural skeleton.
* To get closer to the original, keep duplicating the cells below.

* ---- upper bank ----
RBPU1   DRVUP   BPU1    100
QOP1    VCC     BPU1    EPU1    NPN_PWR
REOP1   EPU1    OUT     0.47

RBPU2   DRVUP   BPU2    100
QOP2    VCC     BPU2    EPU2    NPN_PWR
REOP2   EPU2    OUT     0.47

RBPU3   DRVUP   BPU3    100
QOP3    VCC     BPU3    EPU3    NPN_PWR
REOP3   EPU3    OUT     0.47

RBPU4   DRVUP   BPU4    100
QOP4    VCC     BPU4    EPU4    NPN_PWR
REOP4   EPU4    OUT     0.47

* ---- lower bank ----
RBPD1   DRVDN   BPD1    100
QON1    VEE     BPD1    EPD1    PNP_PWR
REON1   EPD1    OUT     0.47

RBPD2   DRVDN   BPD2    100
QON2    VEE     BPD2    EPD2    PNP_PWR
REON2   EPD2    OUT     0.47

RBPD3   DRVDN   BPD3    100
QON3    VEE     BPD3    EPD3    PNP_PWR
REON3   EPD3    OUT     0.47

RBPD4   DRVDN   BPD4    100
QON4    VEE     BPD4    EPD4    PNP_PWR
REON4   EPD4    OUT     0.47

*************** OUTPUT NETWORK ***************
* Original image shows output coil + damping resistor and Zobel-like network.

LOUT    OUT     SPK     1.5u
RLOUT   OUT     SPK     10

RZOB    OUT     NZ      10
CZOB    NZ      0       0.022u

*************** LOAD ***************
RL      SPK     0       8

*************** DEVICE MODELS ***************
.model NJF_IN    NJF( BETA=4m VTO=-1.5 LAMBDA=2m RD=20 RS=20 )
.model NPN_SMALL NPN( IS=1e-14 BF=150 VAF=100 CJE=20p CJC=5p TF=0.5n )
.model PNP_SMALL PNP( IS=1e-14 BF=120 VAF=80  CJE=30p CJC=8p TF=1n )
.model NPN_VAS   NPN( IS=5e-14  BF=120 VAF=200 CJE=30p CJC=8p TF=20n )
.model NPN_DRV   NPN( IS=1e-13  BF=80  VAF=100 CJE=100p CJC=60p TF=50n )
.model PNP_DRV   PNP( IS=1e-13  BF=60  VAF=100 CJE=120p CJC=80p TF=80n )
.model NPN_PWR   NPN( IS=1e-12  BF=50  VAF=80  CJE=500p CJC=300p TF=0.3u )
.model PNP_PWR   PNP( IS=1e-12  BF=40  VAF=80  CJE=600p CJC=350p TF=0.5u )

*************** SIMPLE OP-AMP MACRO ***************
.subckt OPAMP_SIMPLE INP INN OUT VCC VEE
EGAIN   NINT    0       INP     INN     1e5
RISO    NINT    OUT     100
ROUT    OUT     0       1Meg
COUT    OUT     0       10p
.ends OPAMP_SIMPLE

*************** ANALYSIS ***************
.op
.ac dec 100 1 1Meg
.tran 0.1u 20m

.end