*========================================================
* Behavioral DLL (Delay-Locked Loop)
* file: dll_basic.cir
*--------------------------------------------------------
* Architecture:
*   REFCLK -> PFD/CP -> Loop Filter -> VCTRL -> 8-stage VCDL
*                                            -> FBK to PFD
*--------------------------------------------------------
* Notes:
* 1) This is a behavioral / framework-level DLL.
* 2) Suitable for ngspice / LTspice style behavioral simulation.
* 3) If loop polarity is wrong in your simulator, flip the sign of KCP.
*========================================================

*************** PARAMETERS ***************
.param VDDVAL=1.8
.param TCLK=10n
.param VCM={VDDVAL/2}

*************** SUPPLY ***************
VDD     VDD     0       {VDDVAL}

*************** REFERENCE CLOCK ***************
VREF    REF     0       PULSE(0 {VDDVAL} 0 50p 50p {TCLK/2} {TCLK})

*************** CONTROL BIAS + LOOP FILTER ***************
* VCTRL is biased around mid-supply and adjusted by the charge pump
VBIAS   VBIAS   0       {VCM}
RBIAS   VCTRL   VBIAS   200k
CCTRL   VCTRL   0       300p
RLEAK   VCTRL   0       2Meg
.ic V(VCTRL)={VCM}

*************** PHASE DETECTOR / CHARGE PUMP ***************
* Abstract signed phase detector + charge pump
* REF and FBK are compared, and current is injected into VCTRL
XPFD    REF     FBK     VCTRL   VDD     0       PFD_CP_ABS

*************** VOLTAGE-CONTROLLED DELAY LINE ***************
* 8-stage VCDL, taps are exposed for multiphase clocks
XDL1    REF     TAP1    VCTRL   VDD     0       DLL_STAGE
XDL2    TAP1    TAP2    VCTRL   VDD     0       DLL_STAGE
XDL3    TAP2    TAP3    VCTRL   VDD     0       DLL_STAGE
XDL4    TAP3    TAP4    VCTRL   VDD     0       DLL_STAGE
XDL5    TAP4    TAP5    VCTRL   VDD     0       DLL_STAGE
XDL6    TAP5    TAP6    VCTRL   VDD     0       DLL_STAGE
XDL7    TAP6    TAP7    VCTRL   VDD     0       DLL_STAGE
XDL8    TAP7    FBK     VCTRL   VDD     0       DLL_STAGE

*************** OPTIONAL LOADS ON TAPS ***************
CT1     TAP1    0       10f
CT2     TAP2    0       10f
CT3     TAP3    0       10f
CT4     TAP4    0       10f
CT5     TAP5    0       10f
CT6     TAP6    0       10f
CT7     TAP7    0       10f
CT8     FBK     0       10f

*************** SUBCKT: DELAY CELL ***************
* A simple voltage-controlled delay cell:
*   IN --[V-controlled resistor]--> internal RC node --> smooth inverter --> OUT
* Higher VCTRL => smaller R => shorter delay
.subckt DLL_STAGE IN OUT VCTRL VDD VSS
.param RMIN=300
.param RMAX=4500
.param CDEL=400f
.param VSLOPE=0.03

* voltage-controlled resistor implemented by behavioral current source
* R(VCTRL) = RMAX - (RMAX-RMIN)*(VCTRL/VDD)
* clipped into [RMIN, RMAX]
BRES    N1  IN  I = { V(N1,IN) / ( RMIN + (RMAX-RMIN)*(1 - limit(V(VCTRL,VSS)/V(VDD,VSS), 0, 1)) ) }

C1      N1      VSS     {CDEL}

* smooth inverter, avoids hard discontinuity
BINV    OUT     VSS     V = { V(VSS) + 0.5*V(VDD,VSS)*(1 - tanh((V(N1,VSS)-0.5*V(VDD,VSS))/VSLOPE)) }

.ends DLL_STAGE

*************** SUBCKT: ABSTRACT PFD + CP ***************
* Signed phase detector using a smooth phase cross-product:
* err ~ x*dy/dt - y*dx/dt
* For sinusoidal signals this is proportional to sin(phase_error).
* For smoothed clocks it acts like a signed phase comparator near lock.
*
* Current is injected into VCTRL directly.
* If your simulator shows positive-feedback behavior, flip the sign of KCP.
.subckt PFD_CP_ABS REF FBK VCTRL VDD VSS
.param VTH=0.9
.param VS=0.06
.param KCP=30u

* smoothed logic waveforms in [-1, 1]
BUPD    VCTRL   VSS     I = { 
+ KCP * (
+ tanh((V(REF,VSS)-VTH)/VS) * ddt(tanh((V(FBK,VSS)-VTH)/VS))
+ -tanh((V(FBK,VSS)-VTH)/VS) * ddt(tanh((V(REF,VSS)-VTH)/VS))
+ )
+ }

.ends PFD_CP_ABS

*************** ANALYSIS ***************
.tran 1p 5u uic
.op

*************** MEASUREMENTS ***************
.measure tran VCTRL_AVG  avg V(VCTRL) from=4u to=5u
.measure tran TPHASE trig V(REF) val={VCM} rise=200 targ V(FBK) val={VCM} rise=200

.end